US06124343
2,4-Dihydroxy-6-fluorobenzaldehyde
Dimethylformamide (12.7 g) was added to vigorously stirred phosphorous oxychloride (14.4 g) at 0° C. The reaction mixture was stirred at this temperature for 30 minutes, then 3,5-dihydroxyfluorobenzene (6 g) was added. The sticky red syrup was allowed to warm to room temperature and stirred for 2 hours, then left to stand for 14 hours. Water (100 ml) was added and the mixture extracted three times with ethyl acetate (100 ml). The combined organic extracts were washed with brine (100 ml), dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:2, v/v). Fractions homogeneous in the required product were combined and evaporated to give an orange solid which was triturated with ethyl acetate to give the title compound (2 g) as a yellow solid.

reactant | Dimethylformamide | 12.7 g | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 14.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,5-dihydroxyfluorobenzene | 6 g | OC=1C=C(C=C(C1)O)F | C6H5FO2
solvent | Water | 100 ml | O | H2O
product | 2,4-Dihydroxy-6-fluorobenzaldehyde | 2 g | OC1=C(C=O)C(=CC(=C1)O)F | C7H5FO3
